US06726966B2
To 18.58 g of 5-phenylsalicylic acid, 350 ml of ethanol, 100 ml of toluene and 42 ml of concentrated sulfuric acid were added. The mixture was heated under reflux for 14 hours. After it was confirmed with TLC that the starting materials were almost disappeared, the reaction liquid was poured into a mixed medium of diluted hydrochloric acid-ethyl acetate. The mixture was extracted, and the organic phase was collected and washed with saturated sodium chloride aqueous solution. After dried with magnesium sulfate, the liquid was concentrated to form a crude product. The product was recrystallized from ethanol to obtain 11.53 g of ethyl 5-phenylsalicylate in the form of colorless crystallites. The yield was 55%. The product was confirmed with NMR and mass spectroscopy.

reactant | 5-phenylsalicylic acid | 18.58 g | C1(=CC=CC=C1)C1=CC=C(C(C(=O)O)=C1)O | C13H10O3
reactant | ethanol | 350 ml | C(C)O | C2H6O
reactant | sulfuric acid | 42 ml | S(O)(O)(=O)=O | H2O4S
reactant | hydrochloric acid ethyl acetate | Cl.C(C)(=O)OCC
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
product | ethyl 5-phenylsalicylate | 11.53 g, yield was 55% | C1(=CC=CC=C1)C1=CC=C(C(C(=O)OCC)=C1)O | C15H14O3
